US05747498
(3-Ethynylphenyl)-(7-nitroquinazolin-4-yl)-amine Hydrochloride
4-Chloro-7-nitroquinazoline (7.97 g, 38.0 mmol) and 3-ethynylaniline (4.54 g, 38.8 mmol) were refluxed in 125 mL of tert-butyl alcohol for 3 hours, cooled to room temperature and filtered to afford the title product as a solid which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 9.95 g (80%); mp 209°-210° C. dec.

reactant | 4-Chloro-7-nitroquinazoline | 38.0 mmol, 7.97 g | ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 3-ethynylaniline | 38.8 mmol, 4.54 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tert-butyl alcohol | 125 mL | C(C)(C)(C)O | C4H10O
product | (3-Ethynylphenyl)-(7-nitroquinazolin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | InChI=1S/C16H10N4O2.ClH/c1-2-11-4-3-5-12(8-11)19-16-14-7-6-13(20(21)22)9-15(14)17-10-18-16;/h1,3-10H,(H,17,18,19);1H
